US06353010B1
7-Bromo-4-methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole
4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole (129 m), N-bromosuccinimide (107 mg) and acetonitrile (5 ml) were combined and stirred at room temperature under nitrogen for 4 h. The mixture was partitioned between water (20 ml) and ethyl acetate (20 ml). The aqueous phase was extracted with ethyl acetate (20 ml). The combined organic phases were washed with water (2×50 ml), dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 30% ethyl acetate in hexane to yield the title compound as a white solid (95 mg).

reactant | 4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole | COC1=CC=CC2=C1N=C(O2)C2(OCCO2)C | C12H13NO4
reactant | N-bromosuccinimide | 107 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-Bromo-4-methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole | 95 mg | BrC1=CC=C(C=2N=C(OC21)C2(OCCO2)C)OC | C12H12BrNO4
